US09447046B2
Preparation 158b: 4-{[(tert-butyldimethylsilyl)oxy]methyl}-N-methylaniline
To a solution of [4-(methylamino)phenyl]methanol (500 mg, 3.7 mmol) and imidazole (248 mg, 3.7 mmol) in DCM (20 mL) was added TBSCl (548 mg, 3.7 mmol) at r.t., and the reaction was stirred for 2 h. The reaction was diluted with water (50 mL) and extracted with DCM (50 mL×3). Organics were washed with brine (50 mL), dried (Na2SO4), and concentrated. The residue was purified by silica gel chromatography (PE:EtOAc=40:1) to give 600 mg (66%) of the title compound as a yellow oil. [M+H] Calc'd for C14H15NOSi, 252. Found 252.

reactant | [4-(methylamino)phenyl]methanol | 3.7 mmol, 500 mg | CNC1=CC=C(C=C1)CO | C8H11NO
reactant | imidazole | 3.7 mmol, 248 mg | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 3.7 mmol, 548 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 4-{[(tert-butyldimethylsilyl)oxy]methyl}-N-methylaniline | 600 mg, 66% | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(NC)C=C1 | C14H25NOSi
